US08729068B2
A mixture of 250 mg of methyl 4-[2-(4-{[(2-{[3-(cyclopropylsulfamoyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 111 mg of methyl 5-bromopentanoate, 105 mg of potassium carbonate, and 2.5 mL of DMF was stirred at 80° C. overnight. Further, 42 mg of tetrabutyl ammonium iodide was added thereto, followed by stirring at 100° C. for 3 hours. In addition, 370 mg of methyl 5-bromopentanoate, 140 mg of tetrabutyl ammonium iodide, and 262 mg of potassium carbonate were added thereto, followed by stirring at 100° C. overnight. To the reaction mixture was added an aqueous citric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated brine in this order, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-chloroform) to obtain 213 mg of methyl 4-{2-[4-({[2-({3-[cyclopropyl(5-methoxy-5-oxopentyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate as a yellow solid.

reactant | methyl 4-[2-(4-{[(2-{[3-(cyclopropylsulfamoyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 250 mg | C1(CC1)NS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C35H35N3O6S2
reactant | methyl 5-bromopentanoate | 111 mg | BrCCCCC(=O)OC | C6H11BrO2
reactant | potassium carbonate | 105 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 5-bromopentanoate | 370 mg | BrCCCCC(=O)OC | C6H11BrO2
reactant | potassium carbonate | 262 mg | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
catalyst | tetrabutyl ammonium iodide | 42 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrabutyl ammonium iodide | 140 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | methyl 4-{2-[4-({[2-({3-[cyclopropyl(5-methoxy-5-oxopentyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 213 mg | C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)CCCCC(=O)OC | C41H45N3O8S2
